US05661160
Synthesis of N,N-bis(2-chloroethyl)-N-benzylamine hydrochloride
Thionyl chloride (25.4 g, 130 mmol) and chloroform (20 mL) are combined. A solution of N,N-bis(2-hydroxyethyl)-N-benzylamine (25.4 g, 130 mmol) in chloroform (20 mL) is added dropwise over 1 hour. When the addition is complete the reaction mixture is refluxed for 1 hour. The reaction mixture is cooled to ambient temperature and diethyl ether was added to form a solid which is collected by filtration, rinsed with diethyl ether, and dried to give the title compound.

reactant | Thionyl chloride | 130 mmol, 25.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-bis(2-hydroxyethyl)-N-benzylamine | 130 mmol, 25.4 g | OCCN(CC1=CC=CC=C1)CCO | C11H17NO2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | N,N-bis(2-chloroethyl)-N-benzylamine hydrochloride | Cl.ClCCN(CC1=CC=CC=C1)CCCl | InChI=1S/C11H15Cl2N.ClH/c12-6-8-14(9-7-13)10-11-4-2-1-3-5-11;/h1-5H,6-10H2;1H
